US04260410
Example 12--Preparation of 3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone-O-phenylcarbamyl oxime
Following the procedure of Example 11, 3 g of 3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone oxime, 3 g phenylisocyanate and 5 drops triethylamine in 100 ml methylene chloride were stirred, refluxed and worked up to yield the title product, m.p. 115°-117° C. This product is tabulated as Compound No. 18 in Table I.

reactant | 3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone oxime | 3 g | ClCC(=O)N(C(C(C)=NO)C)C1=C(C=CC=C1C)C | C14H19ClN2O2
reactant | phenylisocyanate | 3 g | C1(=CC=CC=C1)N=C=O | C7H5NO
catalyst | triethylamine | 5 drops | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-(N-chloroacetyl-2,6-dimethylphenylamino)-2-butanone-O-phenylcarbamyl oxime | C1(=CC=CC=C1)NC(=O)ON=C(C)C(C)N(C(CCl)=O)C1=C(C=CC=C1C)C | C21H24ClN3O3
